US04957928
17.7 g (0.1 mol) of 3-(2-aminoethyl)chroman are dissolved in 100 ml of methanol, and then 10.5 g (0.1 mol) of triethylamine and 19.5 g (0.1 mol) of 4-bromobutyric acid ethyl ester are added to the solution. The reaction mixture is stirred for 15 hours at room temperature and is then concentrated under a water-jet vacuum. The residue is taken up in diethyl ether and washed neutral with ice-water. The ethereal phase is dried over potassium carbonate and concentrated by evaporation. Oily N-(3-ethoxycarbonylpropyl)-N-[2-(chroman-3-yl)ethyl]-amine is thus obtained and can be used further in crude form.

reactant | 3-(2-aminoethyl)chroman | 0.1 mol, 17.7 g | NCCC1COC2=CC=CC=C2C1 | C11H15NO
reactant | triethylamine | 0.1 mol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobutyric acid ethyl ester | 0.1 mol, 19.5 g | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | methanol | 100 ml | CO | CH4O
product | N-(3-ethoxycarbonylpropyl)-N-[2-(chroman-3-yl)ethyl]-amine | C(C)OC(=O)CCCNCCC1COC2=CC=CC=C2C1 | C17H25NO3
